US06184225B2
A mixture of 6-methoxy-7-(2-morpholinoethoxy)-4-phenoxyquinazoline (400 mg, 1.05 mmol) and 2M hydrochloric acid (10 ml) was heated at 100° C. for 2 hours and then allowed to cool. The mixture was neutralised with solid sodium hydrogen carbonate. Addition of methylene chloride gave a white precipitate which was collected by filtration, washed with acetone and dried to give 6-methoxy-7-(2-morpholinoethoxy)-3,4-dihydroquinazolin-4-one (320 mg, 100%).

reactant | 6-methoxy-7-(2-morpholinoethoxy)-4-phenoxyquinazoline | 1.05 mmol, 400 mg | COC=1C=C2C(=NC=NC2=CC1OCCN1CCOCC1)OC1=CC=CC=C1 | C21H23N3O4
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-methoxy-7-(2-morpholinoethoxy)-3,4-dihydroquinazolin-4-one | 320 mg, 100% | COC=1C=C2C(NC=NC2=CC1OCCN1CCOCC1)=O | C15H19N3O4
